* AD783-like high-speed sample-and-hold macro model for ngspice.
* Op-amp-buffer variant: input/output buffers are finite-gain single-pole
* voltage followers instead of ideal E-source buffers.
*
* This is not an official Analog Devices model. It is a compact macro model
* matched to the AD783-class timing target: about 250 ns acquisition to 0.01%.
*
* Pin order follows the useful AD783 signal pins:
*   IN  SH  COM  VEE  OUT  VCC
*
* SH high  -> track/sample
* SH low   -> hold
*
* Timing basis:
*   0.01% settling requires exp(-t/tau) = 1e-4.
*   tau = 250 ns / ln(10000) = 27.1 ns.
*   With CHOLD=1 nF and RON=27 ohm, tau ~= 27 ns.

.subckt AD783_LIKE_SHA_OPAMP IN SH COM VEE OUT VCC params: RON=27 ROFF=1e12 CHOLD=1n ROUT=25 COUT=650p VTH=2.5 VH=0.1 RLEAK=1e12 OPGAIN=100k OPPOLE=200Meg OPROUT=5

* High-input-impedance finite-bandwidth input buffer followed by the sampling switch.
* Non-inverting follower: + input = IN, - input = INBUF.
XINBUF IN INBUF VCC VEE INBUF AD783_FAST_FOLLOWER params: GAIN={OPGAIN} POLE={OPPOLE} ROUT={OPROUT}
R_IN_BLEED INBUF COM 1G
S_TRACK INBUF HOLD SH COM S_TRACK_MODEL
.model S_TRACK_MODEL sw vt={VTH} vh={VH} ron={RON} roff={ROFF}
CHOLD_INT HOLD COM {CHOLD}
RLEAK_INT HOLD COM {RLEAK}

* Finite-bandwidth output buffer with finite output resistance and output settling.
* Non-inverting follower: + input = HOLD, - input = BUF.
XOUTBUF HOLD BUF VCC VEE BUF AD783_FAST_FOLLOWER params: GAIN={OPGAIN} POLE={OPPOLE} ROUT={OPROUT}
R_OUT BUF OUT {ROUT}
C_OUT OUT COM {COUT}
R_OUT_BLEED OUT COM 1G

* Soft rail clamps keep the macro output in the supply range.
DCLAMP_H OUT VCC DCLAMP
DCLAMP_L VEE OUT DCLAMP
.model DCLAMP D IS=1e-18 RS=1

.ends AD783_LIKE_SHA_OPAMP

* Compact high-speed voltage follower used inside the SHA macro.
* Pin order: in+ in- vcc vee out
.subckt AD783_FAST_FOLLOWER inplus inminus vcc vee out params: GAIN=100k POLE=200Meg ROUT=5
GERR 0 int inplus inminus 1m
RGAIN int 0 {GAIN/1m}
CPOLE int 0 {1/(6.283185307*(GAIN/1m)*POLE)}
EOUT buf 0 int 0 1
RBUF buf out {ROUT}
EHI nhi 0 vcc 0 1
ELO nlo 0 vee 0 1
DHI out nhi DFOLLOW_CLAMP
DLO nlo out DFOLLOW_CLAMP
RINT_LEAK int 0 1G
.model DFOLLOW_CLAMP D IS=1e-18 RS=1
.ends AD783_FAST_FOLLOWER
